US06346527B1
The mixture of (2,3-dihydro-9-methylthiomethyl-1-benzoxepin-4-carbonyl)guanidine (0.4 g) and m-chloroperbenzoic acid (0.52 g) in chloroform (20 ml) and methanol (4 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was added to 10% aqueous sodium thiosulfate, adjusted to pH 9 with 20% aqueous potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in methanol (5 ml), and methanesulfonic acid (0.11 ml) was added with stirring. To the mixture was added diisopropyl ether (5 ml) and isolated crystalline was collected by filtration. The crystalline was recrystallized from a mixture of methanol and diisopropyl ether to give (2,3-dihydro-9-methanesulfonylmethyl-1-benzoxepin-4-carbonyl)guanidine methanesulfonate (0.16 g).

reactant | (2,3-dihydro-9-methylthiomethyl-1-benzoxepin-4-carbonyl)guanidine | 0.4 g | CSCC1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | C14H17N3O2S
reactant | m-chloroperbenzoic acid | 0.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 4 ml | CO | CH4O
product | (2,3-dihydro-9-methanesulfonylmethyl-1-benzoxepin-4-carbonyl)guanidine methanesulfonate | 0.16 g | CS(=O)(=O)O.CS(=O)(=O)CC1=CC=CC=2C=C(CCOC21)C(=O)NC(=N)N | InChI=1S/C14H17N3O4S.CH4O3S/c1-22(19,20)8-11-4-2-3-9-7-10(5-6-21-12(9)11)13(18)17-14(15)16;1-5(2,3)4/h2-4,7H,5-6,8H2,1H3,(H4,15,16,17,18);1H3,(H,2,3,4)
